US07332485B2
Dimethyl 4-Methyl-Cyclohexane-1,1-Dicarboxylate
A solution of methyl 4-methylcyclohexane carboxylic acid (6.5 g, 41.6 mmol) in THF (15 mL) was added dropwise to a solution of lithium diisopropylamine (6.75 g, 62.4 mmol) in THF (60 mL) at −78° C. After stirring for 1 h at the same temperature, a solution of methylchloroformate (5.9 g, 62.4 mmol) in THF (15 mL) was added slowly and the mixture was allowed to warm to room temperature. After 18 h the reaction mixture was quenched with saturated aqueous NH4Cl solution (100 mL). THF was removed in vacuo and the aqueous residue was extracted with dichloromethane (100 mL×3). The combined organic layers were dried (MgSO4). After removal of the solvent under reduced pressure, purification by flash column chromatography using an eluting system of hexane/EtOAc (95:5) yielded the title compound as a clear colorless liquid (4.79 g, 54%). MH+215.

reactant | methyl 4-methylcyclohexane carboxylic acid | 41.6 mmol, 6.5 g | CC1(CCC(CC1)C)C(=O)O | C9H16O2
reactant | lithium diisopropylamine | 62.4 mmol, 6.75 g | C(C)(C)NC(C)C.[Li]
reactant | methylchloroformate | 62.4 mmol, 5.9 g | COC(=O)Cl | C2H3ClO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Dimethyl 4-Methyl-Cyclohexane-1,1-Dicarboxylate | 4.79 g, 54% | CC1CCC(CC1)(C(=O)OC)C(=O)OC | C11H18O4
